US06683096B2
D. Preparation of 4-[1-(2-ethoxy-ethyl)-indol-3-yl]-piperidine
4 g of 4-[1-(2-ethoxy-ethyl)-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester and 3.81 g of potassium hydroxide 85% were added to 14 g of 2-propanol and the mixture was heated at 95-100° C. for 16 hours. The solvent was distilled off and water was added. The mixture was extracted with toluene and the organic layer was separated, washed with water and concentrated. The residue was disolved in a mixture of 10 mL of ethyl alcohol 96% and 6 mL of 2-propanol and 1.4 g of fumaric acid were added. The mixture was refluxed for 30 minutes. After cooling at 0-5° C. for 30 minutes the formed solid was isolated by suction filtration. 4.05 g of a white solid were recovered as a salt of the product with fumaric acid.

reactant | 4-[1-(2-ethoxy-ethyl)-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester | 4 g | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC=CC=C12)CCOCC | C20H28N2O3
reactant | potassium hydroxide | 3.81 g | [OH-].[K+]
solvent | 2-propanol | 14 g | CC(C)O | C3H8O
product | 4-[1-(2-ethoxy-ethyl)-indol-3-yl]-piperidine | C(C)OCCN1C=C(C2=CC=CC=C12)C1CCNCC1 | C17H24N2O
